US03959473
2-benzyloxy-4-nitrophenyl was iodinated to 2-benzyloxy-6-iodo-4-nitrophenol of melting point 143°C-145°C in the manner described for an analogous compound in J.Am.Chem. Soc. 75 4290 (1953). This compound was converted with epichlorohydrine into 2-(hydroxymethyl)-5-iodo-7-nitro-1,4-benzodioxane by the method described in J.Ned. Chem. 1965 page 455 for an analogous compound. The substance obtained was ethylated to 2-(ethoxymethyl)-5-iodo-7-nitro-1,4-benzodioxane (melting point of the crude product 90°--99°C), and this was converted with CF3J and powdered copper in dimethylformamide into 2-(ethoxymethyl)-7-nitro-5-(trifluoromethyl)-1,4-benzodioxan by the method described in Tetrahedron Letters 1969 pages 4095-4096. The reaction product was hydrogenated by means of a palladium on active carbon catalyst at room temperature and under a pressure of about 1.1 atmospheres to form 7-amino-2-(ethoxymethyl)-5-(trifluoromethyl)-1,4-benzodioxan, which was immediately converted with 2-(ethoxymethylene)malonic acid diethyl ester into 2- { [2-(ethoxymethyl)-5-(trifluromethyl)-1,4-benzodioxan-7-ylamino] -methylene } malonic acid diethyl ester which had a melting point of 96°-98°C.

reactant | 2-benzyloxy-6-iodo-4-nitrophenol | C(C1=CC=CC=C1)OC1=C(C(=CC(=C1)[N+](=O)[O-])I)O | C13H10INO4
reactant | epichlorohydrine | C(Cl)C1CO1 | C3H5ClO
reactant | 2-(hydroxymethyl)-5-iodo-7-nitro-1,4-benzodioxane | OCC1COC2=C(O1)C=C(C=C2I)[N+](=O)[O-] | C9H8INO5
reactant | 2-(ethoxymethyl)-5-iodo-7-nitro-1,4-benzodioxane | C(C)OCC1COC2=C(O1)C=C(C=C2I)[N+](=O)[O-] | C11H12INO5
reactant | 2-(ethoxymethyl)-7-nitro-5-(trifluoromethyl)-1,4-benzodioxan | C(C)OCC1COC2=C(O1)C=C(C=C2C(F)(F)F)[N+](=O)[O-] | C12H12F3NO5
solvent | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | copper | [Cu] | Cu
catalyst | palladium | [Pd] | Pd
product | 7-amino-2-(ethoxymethyl)-5-(trifluoromethyl)-1,4-benzodioxan | NC=1C=C(C2=C(OC(CO2)COCC)C1)C(F)(F)F | C12H14F3NO3
